US07498337B2
methyl 5-bromo-4-methyl-1H-pyrrole-3-carboxylate
By a similar operation as in Reference Example 22 and using methyl 4-methyl-1H-pyrrole-3-carboxylate (1.0 g) and N-bromosuccinimide (1.28 g), the title compound was obtained as a pale-yellow solid (yield 489 mg, 31%).

reactant | methyl 4-methyl-1H-pyrrole-3-carboxylate | 1.0 g | CC=1C(=CNC1)C(=O)OC | C7H9NO2
reactant | N-bromosuccinimide | 1.28 g | BrN1C(CCC1=O)=O | C4H4BrNO2
product | methyl 5-bromo-4-methyl-1H-pyrrole-3-carboxylate | BrC1=C(C(=CN1)C(=O)OC)C | C7H8BrNO2
